US07855201B2
Step 4: (−)-4-Benzyl-N-(3,4-dihydro-2H-1,5-benzodioxepin-7-ylmethyl)-N-isobutylmorpholine-2-carboxamide
A mixture of 5.6 g of N-(3,4-dihydro-2H-1,5-benzodioxepin-7-ylmethyl)-2-methylpropan-1-amine, 5.0 g of (−)-(2R)-4-(tert-butoxycarbonyl)morpholine-2-carboxylic acid, 0.8 g of 1-hydroxybenzotriazole hydrate and 5 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride and 3 mL of triethylamine in 100 mL in dichloromethane was stirred overnight. The mixture was concentrated under reduced pressure and partitioned between 100 mL of ethyl acetate and 100 mL of saturated sodium carbonate, dried over magnesium sulfate and concentrated under reduced pressure. Flash chromatography (20%-50% ethyl acetate/hexanes gradient elution) gave the product as a resin: MS (m+1)=449.3; H NMR (400 MHz, CDCl3) 7.3-6.7 (complex m, 5H), 4.6 (br d, 1H), 6.8-6.7 (m, 2H), 4.4 (d, 1H), 4.2 (m, 4H), 4.15 (q, 1H), 4.08 (br d, 1H), 3.95 (m, 1H), 3.5 (m, 1H), 3.2 (m, 1H), 3.0 (dd, 1H), 2.2 (m, 1H), 2.0 (m, 1H) 1.45 (2×s, 9H), 0.9 (dd, 6H).

reactant | N-(3,4-dihydro-2H-1,5-benzodioxepin-7-ylmethyl)-2-methylpropan-1-amine | 5.6 g | O1CCCOC2=C1C=CC(=C2)CNCC(C)C | C14H21NO2
reactant | (−)-(2R)-4-(tert-butoxycarbonyl)morpholine-2-carboxylic acid | 5.0 g | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)C(=O)O | C10H17NO5
reactant | 1-hydroxybenzotriazole hydrate | 0.8 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 5 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
product | (−)-4-Benzyl-N-(3,4-dihydro-2H-1,5-benzodioxepin-7-ylmethyl)-N-isobutylmorpholine-2-carboxamide | C(C1=CC=CC=C1)N1CC(OCC1)C(=O)N(CC(C)C)CC1=CC2=C(OCCCO2)C=C1 | C26H34N2O4
